### PR TITLE
[Merged by Bors] - feat(Analysis/BoxIntegral/UnitPartition): Prove results linking integral point counting and integrals

### PR DESCRIPTION
**Pull request by xroblot**
We prove the following result:

> Let `s` be a bounded, measurable set of `ι → ℝ` whose frontier has zero volume and let `F` be a 
> continuous function. Then the limit as `n → ∞` of `∑ F x / n ^ card ι`, where the sum is over the
> points in `s ∩ n⁻¹ • (ι → ℤ)`, tends to the integral of `F` over `s`.

using Riemann integration. As a special case, we deduce that 

> The limit as `n → ∞` of `card (s ∩ n⁻¹ • (ι → ℤ)) / n ^ card ι` tends to the volume of `s`.

Both of these statements are for a variable `n : ℕ`. However, with the additional hypothesis: 
`x • s ⊆ y • s` whenever `0 < x ≤ y`, we generalize the previous statement to a real variable. 

This PR is part of the proof of the Analytic Class Number Formula.

---

- [x] depends on: #16675 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by xroblot** [comment]
@MichaelStollBayreuth, this is the follow-up of #16675. I'll be very glad if you could find some time to review it too.

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 1]
```diff
@@ -309,6 +315,13 @@ instance [Finite ι] : DiscreteTopology (span ℤ (Set.range b)) := by
 instance [Finite ι] : DiscreteTopology (span ℤ (Set.range b)).toAddSubgroup :=
   inferInstanceAs <| DiscreteTopology (span ℤ (Set.range b))
 
+theorem setFinite_inter [ProperSpace E] [Finite ι] {s : Set E} (hs : Bornology.IsBounded s) :
+    Set.Finite (s ∩ (span ℤ (Set.range b))) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean:319]:
```suggestion
    Set.Finite (s ∩ span ℤ (Set.range b)) := by
```
The parens are not necessary here.

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 2]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
   rw [TaggedPrepartition.mem_toPrepartition, mem_prepartition_iff]
   exact ⟨index n x, mem_admissibleIndex_of_mem_box n hB hx, rfl⟩
 
+theorem exists_admissibleIndex {B : Box ι} (hB : hasIntegralVertices B) {x : ι → ℝ} (hx : x ∈ B) :
+    ∃ ν ∈ admissibleIndex n B, box n ν = box n (index n x) :=
+  ⟨index n x, mem_admissibleIndex_of_mem_box n hB hx, rfl⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:313]: Doesn't this just say `index n x ∈ admissibleIndex n B` (which is `mem_admissibleIndex_of_mem_box n hB hx`)? Why this more convoluted statement?
(I guess the actual question is, can this not easily be inlined where it is used?)

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 3]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+
+open Submodule Pointwise BigOperators
+
+open scoped Pointwise
+
+variable (c : ℝ) (s : Set (ι → ℝ)) (F : (ι → ℝ) → ℝ)
+
+local notation "L" => span ℤ (Set.range (Pi.basisFun ℝ ι))
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:321]: Is this the standard lattice (like ℤⁿ ⊆ ℝⁿ)? It would perhaps be good to add a docstring.

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 4]
```diff
@@ -62,11 +62,17 @@ variable (b : Basis ι K E)
...
 theorem span_top : span K (span ℤ (Set.range b) : Set E) = ⊤ := by simp [span_span_of_tower]
 
-
 theorem map {F : Type*} [NormedAddCommGroup F] [NormedSpace K F] (f : E ≃ₗ[K] F) :
     Submodule.map (f.restrictScalars ℤ) (span ℤ (Set.range b)) = span ℤ (Set.range (b.map f)) := by
   simp_rw [Submodule.map_span, LinearEquiv.restrictScalars_apply, Basis.coe_map, Set.range_comp]
 
+open scoped Pointwise in
+theorem smul {c : K} (hc : c ≠ 0) :
+    c • span ℤ (Set.range b) = span ℤ (Set.range (b.isUnitSMul (fun _ ↦ Ne.isUnit hc))) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean:71]:
```suggestion
    c • span ℤ (Set.range b) = span ℤ (Set.range (b.isUnitSMul (fun _ ↦ hc.isUnit))) := by
```
if you like...

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 5]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+
+theorem tag_mem_smul_span (ν : ι → ℤ) :
+    tag n ν ∈ (n : ℝ)⁻¹ • L := by
+  rw [ZSpan.smul _ (inv_ne_zero (mod_cast (NeZero.ne n))), Basis.mem_span_iff_repr_mem]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:325]:
```suggestion
  rw [ZSpan.smul _ (inv_ne_zero (NeZero.ne _)), Basis.mem_span_iff_repr_mem]
```
works here (`NeZero (n : ℝ)` is deduced automatically from `NeZero n`).

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 6]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+
+open Submodule Pointwise BigOperators
+
+open scoped Pointwise
+
+variable (c : ℝ) (s : Set (ι → ℝ)) (F : (ι → ℝ) → ℝ)
+
+local notation "L" => span ℤ (Set.range (Pi.basisFun ℝ ι))
+
+theorem tag_mem_smul_span (ν : ι → ℤ) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:323]: Maybe have a general lemma
```lean
lemma mem_smul_span_iff (v : ι → ℝ) : v ∈ (n : ℝ)⁻¹ • L ↔ ∀ i, n * v i ∈ Set.range ⇑(algebraMap ℤ ℝ)
```
and use it here and below?

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 7]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+  rw [tag_apply, index_apply, Int.cast_sub, Int.cast_one, sub_add_cancel, ← ha, Int.ceil_intCast,
+    ha, mul_div_assoc, mul_div_cancel₀ _ (mod_cast (NeZero.ne n))]
+
+theorem eq_of_index_eq_index_and_mem_smul_span {x y : ι → ℝ} (hx : x ∈ (n : ℝ)⁻¹ • L)
+    (hy : y ∈ (n : ℝ)⁻¹ • L) (h : index n x = index n y) : x = y := by
+  rw [← tag_index_eq_self_of_mem_smul_span n hx, ← tag_index_eq_self_of_mem_smul_span n hy, h]
+
+theorem integralSum_eq_tsum_div {B : Box ι} (hB : hasIntegralVertices B) (hs₀ : s ≤ B) :
+    BoxIntegral.integralSum (Set.indicator s F)
+      (BoxIntegral.BoxAdditiveMap.toSMul (Measure.toBoxAdditive volume))
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:347]:
```suggestion
    integralSum (Set.indicator s F) (BoxAdditiveMap.toSMul (Measure.toBoxAdditive volume))
```
The namespace `BoxIntegral` is open here. (You can also remove `BoxIntegral.` in the `unfold` line below.)

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 8]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+          (prepartition n B) = (∑' x : ↑(s ∩ (n : ℝ)⁻¹ • L), F x) / n ^ card ι := by
+  classical
+  unfold BoxIntegral.integralSum
+  have : Fintype ↑(s ∩ (n : ℝ)⁻¹ • L) := by
+    apply Set.Finite.fintype
+    rw [← coe_pointwise_smul, ZSpan.smul _ (by aesop)]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:353]:
```suggestion
    rw [← coe_pointwise_smul, ZSpan.smul _ (inv_ne_zero (NeZero.ne _))]
```
(compare above)

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 9]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+    exact  ZSpan.setFinite_inter _ (IsBounded.subset B.isBounded hs₀)
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:354]:
```suggestion
    exact ZSpan.setFinite_inter _ (B.isBounded.subset hs₀)
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 10]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+      tag_index_eq_self_of_mem_smul_span n hx.2, hx.1]
+  · rw [Set.mem_toFinset] at hx hy
+    exact eq_of_index_eq_index_and_mem_smul_span n hx.2 hy.2 (box_injective n h)
+  · rw [Finset.mem_filter] at hI
+    refine ⟨(prepartition n B).tag I, Set.mem_toFinset.mpr ⟨hI.2, ?_⟩, box_index_tag_eq_self n hI.1⟩
+    rw [← box_index_tag_eq_self n hI.1, prepartition_tag n
+      (mem_admissibleIndex_of_mem_box n hB (hs₀ hI.2))]
+    exact tag_mem_smul_span _ _
+  · rw [Set.mem_toFinset] at hx
+    rw [volume_box, prepartition_tag n (mem_admissibleIndex_of_mem_box n hB  (hs₀ hx.1)),
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:372]:
```suggestion
    rw [volume_box, prepartition_tag n (mem_admissibleIndex_of_mem_box n hB (hs₀ hx.1)),
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 11]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+      tag_index_eq_self_of_mem_smul_span n hx.2, ENNReal.toReal_div,
+      ENNReal.one_toReal, ENNReal.toReal_pow, ENNReal.toReal_nat, mul_comm_div, one_mul]
+
+open Filter
+
+/-- Let `s` be a bounded, measurable set of `ι → ℝ` whose frontier has zero volume and let `F`
+be a continuous function. Then the limit as `n → ∞` of `∑ F x / n ^ card ι`, where the sum is
+over the points in `s ∩ n⁻¹ • (ι → ℤ)`, tends to the integral of `F` over `s`. -/
+theorem _root_.tendsto_tsum_div_pow_atTop_integral (hF : Continuous F) (hs₁ : Bornology.IsBounded s)
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:381]:
```suggestion
theorem _root_.tendsto_tsum_div_pow_atTop_integral (hF : Continuous F) (hs₁ : IsBounded s)
```
`Bornology` is open (also below).

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 12]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+    (hs₂ : MeasurableSet s) (hs₃ : volume (frontier s) = 0) :
+    Tendsto (fun n : ℕ ↦ (∑' x : ↑(s ∩ (n : ℝ)⁻¹ • L), F x) / n ^ card ι)
+      atTop (nhds (∫ x in s, F x)) := by
+  obtain ⟨B, hB, hs₀⟩ := le_hasIntegralVertices_of_isBounded hs₁
+  refine Metric.tendsto_atTop.mpr fun ε hε ↦ ?_
+  have h₁ : ∃ C, ∀ x ∈ Box.Icc B, ‖Set.indicator s F x‖ ≤ C := by
+    obtain ⟨C₀, h₀⟩ := IsCompact.exists_bound_of_continuousOn (Box.isCompact_Icc B) hF.continuousOn
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:388]:
```suggestion
    obtain ⟨C₀, h₀⟩ := (Box.isCompact_Icc B).exists_bound_of_continuousOn hF.continuousOn
```
if you like...

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 13]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+    refine ⟨max 0 C₀, fun x hx ↦ ?_⟩
+    by_cases hx' : x ∈ s
+    · rw [Set.indicator_of_mem hx']
+      exact le_max_of_le_right (h₀ x hx)
+    · rw [Set.indicator_of_not_mem hx', norm_zero]
+      exact le_max_left 0 _
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:394]:
```suggestion
    rw [Set.indicator]
    split_ifs with hs
    · exact le_max_of_le_right (h₀ x hx)
    · exact norm_zero.trans_le <|le_max_left 0 _
```
`split_ifs` tends to lead to slightly nicer proofs in these situations.

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 14]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+  have h₂ : ∀ᵐ x, ContinuousAt (s.indicator F) x := by
+    filter_upwards [compl_mem_ae_iff.mpr hs₃] with _ h
+      using ContinuousOn.continuousAt_indicator (hF.continuousOn) h
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:397]:
```suggestion
      using hF.continuousOn.continuousAt_indicator h
```
dot notation again

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 15]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+  obtain ⟨r, hr₁, hr₂⟩ := (BoxIntegral.hasIntegral_iff.mp <|
+      AEContinuous.hasBoxIntegral (volume : Measure (ι → ℝ)) h₁ h₂
+        BoxIntegral.IntegrationParams.Riemann) (ε / 2) (half_pos hε)
+  refine ⟨⌈(r 0 0 : ℝ)⁻¹⌉₊, fun n hn ↦ lt_of_le_of_lt ?_ (half_lt_self_iff.mpr hε)⟩
+  have : NeZero n :=
+    ⟨Nat.ne_zero_iff_zero_lt.mpr <| lt_of_lt_of_le (Nat.ceil_pos.mpr (inv_pos.mpr (r 0 0).prop)) hn⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:403]:
```suggestion
  ⟨Nat.ne_zero_iff_zero_lt.mpr <| (Nat.ceil_pos.mpr (inv_pos.mpr (r 0 0).prop)).trans_le hn⟩
```
is an alternative.

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 16]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+    apply prepartition_isSubordinate n B
+    rw [one_div, inv_le_comm₀ (mod_cast (Nat.pos_of_neZero n)) (r 0 0).prop]
+    exact le_trans (Nat.le_ceil _) (Nat.cast_le.mpr hn)
+  · exact prepartition_isHenstock n B
+  · simp only [IntegrationParams.Riemann, Bool.false_eq_true] at h
+  · simp only [IntegrationParams.Riemann, Bool.false_eq_true] at h
+
+/-- Let `s` be a bounded, measurable set of `ι → ℝ` whose frontier has zero volume. Then the limit
+as `n → ∞` of `card (s ∩ n⁻¹ • (ι → ℤ)) / n ^ card ι` tends to the volume of `s`. This is a
+special of `tendsto_card_div_pow` with `F = 1`. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:417]:
```suggestion
special case of `tendsto_card_div_pow` with `F = 1`. -/
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 17]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+  ↑(s ∩ c⁻¹ • L) ≃ ↑(c • s ∩ L) :=
+  Equiv.subtypeEquiv (Equiv.smulRight hc) (fun x ↦ by
+    simp_rw [Set.mem_inter_iff, Equiv.smulRight_apply, Set.smul_mem_smul_set_iff₀ hc,
+      ← Set.mem_inv_smul_set_iff₀ hc])
+
+private theorem tendsto_card_div_pow₂ (hs₁ : Bornology.IsBounded s)
+    (hs₄ : ∀ ⦃x y : ℝ⦄, 0 < x → x ≤ y → x • s ⊆ y • s) {x y : ℝ} (hx : 0 < x) (hy : x ≤ y) :
+    Nat.card ↑(s ∩ x⁻¹ • L) ≤ Nat.card ↑(s ∩ y⁻¹ • L) := by
+  rw [Nat.card_congr (tendsto_card_div_pow₁ s (ne_of_gt hx)),
+      Nat.card_congr (tendsto_card_div_pow₁ s (ne_of_gt (lt_of_lt_of_le hx hy)))]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:436]:
```suggestion
  rw [Nat.card_congr (tendsto_card_div_pow₁ s hx.ne'),
      Nat.card_congr (tendsto_card_div_pow₁ s (hx.trans_le hy).ne')]
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 18]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+  exact tendsto_card_div_pow₂ s hs₁ hs₄ (Nat.cast_pos.mpr (Nat.floor_pos.mpr hx))
+    (Nat.floor_le (by positivity))
+
+private theorem tendsto_card_div_pow₄ (hs₁ : Bornology.IsBounded s)
+    (hs₄ : ∀ ⦃x y : ℝ⦄, 0 < x → x ≤ y → x • s ⊆ y • s) :
+    ∀ᶠ x : ℝ in atTop, (Nat.card ↑(s ∩ x⁻¹ • L) : ℝ) / x ^ card ι ≤
+      (Nat.card ↑(s ∩ (⌈x⌉₊ : ℝ)⁻¹ • L) : ℝ) / x ^ card ι := by
+    filter_upwards [eventually_gt_atTop 0] with x hx
+    gcongr
+    exact tendsto_card_div_pow₂ s hs₁ hs₄ hx (Nat.le_ceil _)
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:457]:
```suggestion
  · exact Set.inter_subset_inter_left _ <| hs₄ hx hy
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 19]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+
+private theorem tendsto_card_div_pow₂ (hs₁ : Bornology.IsBounded s)
+    (hs₄ : ∀ ⦃x y : ℝ⦄, 0 < x → x ≤ y → x • s ⊆ y • s) {x y : ℝ} (hx : 0 < x) (hy : x ≤ y) :
+    Nat.card ↑(s ∩ x⁻¹ • L) ≤ Nat.card ↑(s ∩ y⁻¹ • L) := by
+  rw [Nat.card_congr (tendsto_card_div_pow₁ s (ne_of_gt hx)),
+      Nat.card_congr (tendsto_card_div_pow₁ s (ne_of_gt (lt_of_lt_of_le hx hy)))]
+  refine Nat.card_mono ?_ ?_
+  · exact ZSpan.setFinite_inter _ (IsBounded.smul₀ hs₁ y)
+  · gcongr
+    exact hs₄ hx hy
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:440]:
```suggestion
  · exact Set.inter_subset_inter_left _ <| hs₄ hx hy
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 20]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+
+private theorem tendsto_card_div_pow₃ (hs₁ : Bornology.IsBounded s)
+    (hs₄ : ∀ ⦃x y : ℝ⦄, 0 < x → x ≤ y → x • s ⊆ y • s) :
+    ∀ᶠ x : ℝ in atTop, (Nat.card ↑(s ∩ (⌊x⌋₊ : ℝ)⁻¹ • L) : ℝ) / x ^ card ι ≤
+      (Nat.card ↑(s ∩ x⁻¹ • L) : ℝ) / x ^ card ι := by
+  filter_upwards [eventually_ge_atTop 1] with x hx
+  gcongr
+  exact tendsto_card_div_pow₂ s hs₁ hs₄ (Nat.cast_pos.mpr (Nat.floor_pos.mpr hx))
+    (Nat.floor_le (by positivity))
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:449]:
```suggestion
    (Nat.floor_le (zero_le_one.trans hx))
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean (hunk 18 above)
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:457]:
```suggestion
  filter_upwards [eventually_gt_atTop 0] with x hx
  gcongr
  exact tendsto_card_div_pow₂ s hs₁ hs₄ hx (Nat.le_ceil _)
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 21]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+    (hs₄ : ∀ ⦃x y : ℝ⦄, 0 < x → x ≤ y → x • s ⊆ y • s) :
+    ∀ᶠ x : ℝ in atTop, (Nat.card ↑(s ∩ x⁻¹ • L) : ℝ) / x ^ card ι ≤
+      (Nat.card ↑(s ∩ (⌈x⌉₊ : ℝ)⁻¹ • L) : ℝ) / x ^ card ι := by
+    filter_upwards [eventually_gt_atTop 0] with x hx
+    gcongr
+    exact tendsto_card_div_pow₂ s hs₁ hs₄ hx (Nat.le_ceil _)
+
+private theorem tendsto_card_div_pow₅ :
+    (fun x ↦ (Nat.card ↑(s ∩ (⌊x⌋₊ : ℝ)⁻¹ • L) : ℝ) / ⌊x⌋₊ ^ card ι * (⌊x⌋₊ / x) ^ card ι)
+          =ᶠ[atTop] (fun x ↦ (Nat.card ↑(s ∩ (⌊x⌋₊ : ℝ)⁻¹ • L) : ℝ) / x ^ card ι) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:461]:
```suggestion
      =ᶠ[atTop] (fun x ↦ (Nat.card ↑(s ∩ (⌊x⌋₊ : ℝ)⁻¹ • L) : ℝ) / x ^ card ι) := by
```
(two spaces extra indentation)

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 22]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+  filter_upwards [eventually_ge_atTop 1] with x hx
+  have : 0 < ⌊x⌋₊ := Nat.floor_pos.mpr hx
+  field_simp [hx]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:464]:
```suggestion
  rw [div_pow, mul_div, div_mul_cancel₀ _ (by positivity)]
```
This saves quite a lot of heatbeats.

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 23]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+
+private theorem tendsto_card_div_pow₆ :
+    (fun x ↦ (Nat.card ↑(s ∩ (⌈x⌉₊ : ℝ)⁻¹ • L) : ℝ) / ⌈x⌉₊ ^ card ι * (⌈x⌉₊ / x) ^ card ι)
+          =ᶠ[atTop] (fun x ↦ (Nat.card ↑(s ∩ (⌈x⌉₊ : ℝ)⁻¹ • L) : ℝ) / x ^ card ι) := by
+  filter_upwards [eventually_ge_atTop 1] with x hx
+  have : 0 < ⌊x⌋₊ := Nat.floor_pos.mpr hx
+  field_simp [hx]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:471]:
```suggestion
  rw [div_pow, mul_div, div_mul_cancel₀ _ (by positivity)]
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 24]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+
+/-- A version of `tendsto_card_div_pow_atTop_volume` for the real variable. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:473]:
```suggestion
/-- A version of `tendsto_card_div_pow_atTop_volume` for a real variable. -/
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 25]
```diff
@@ -293,4 +308,183 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+    Tendsto (fun x : ℝ ↦ (Nat.card ↑(s ∩ x⁻¹ • L) : ℝ) / x ^ card ι)
+      atTop (nhds (volume s).toReal) := by
+  refine tendsto_of_tendsto_of_tendsto_of_le_of_le' ?_ ?_
+    (tendsto_card_div_pow₃ s hs₁ hs₄) (tendsto_card_div_pow₄ s hs₁ hs₄)
+  · rw [show (volume s).toReal = (volume s).toReal * 1 ^ card ι by ring]
+    refine Tendsto.congr' (tendsto_card_div_pow₅ s) (Tendsto.mul ?_ (Tendsto.pow ?_ _))
+    · exact Tendsto.comp (tendsto_card_div_pow_atTop_volume s hs₁ hs₂ hs₃) tendsto_nat_floor_atTop
+    · exact tendsto_nat_floor_div_atTop
+  · rw [show (volume s).toReal = (volume s).toReal * 1 ^ card ι by ring]
+    refine Tendsto.congr' (tendsto_card_div_pow₆ s) (Tendsto.mul ?_ (Tendsto.pow ?_ _))
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:486]:
```suggestion
  rw [show (volume s).toReal = (volume s).toReal * 1 ^ card ι by ring]
  refine tendsto_of_tendsto_of_tendsto_of_le_of_le' ?_ ?_
    (tendsto_card_div_pow₃ s hs₁ hs₄) (tendsto_card_div_pow₄ s hs₁ hs₄)
  · refine Tendsto.congr' (tendsto_card_div_pow₅ s) (Tendsto.mul ?_ (Tendsto.pow ?_ _))
    · exact Tendsto.comp (tendsto_card_div_pow_atTop_volume s hs₁ hs₂ hs₃) tendsto_nat_floor_atTop
    · exact tendsto_nat_floor_div_atTop
  · refine Tendsto.congr' (tendsto_card_div_pow₆ s) (Tendsto.mul ?_ (Tendsto.pow ?_ _))
```
Can move this up, as it's used in both branches.

File: Mathlib/Topology/ContinuousOn.lean [hunk 26]
```diff
@@ -1416,6 +1416,18 @@ protected lemma Continuous.mulIndicator (hs : ∀ a ∈ frontier s, f a = 1) (hf
     Continuous (mulIndicator s f) := by
   classical exact hf.piecewise hs continuous_const
 
+@[to_additive]
+theorem ContinuousOn.continuousAt_mulIndicator (hf : ContinuousOn f (interior s)) {x : α}
+    (hx : x ∉ frontier s) :
+    ContinuousAt (s.mulIndicator f) x := by
+  rw [← Set.not_mem_compl_iff, Set.not_not_mem, compl_frontier_eq_union_interior] at hx
```
Comment (MichaelStollBayreuth) [inline Mathlib/Topology/ContinuousOn.lean:1423]:
```suggestion
  rw [← Set.mem_compl_iff, compl_frontier_eq_union_interior] at hx
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/Analysis/BoxIntegral/UnitPartition.lean:326]: Yes, that's a good idea.

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/Analysis/BoxIntegral/UnitPartition.lean]: Indeed, it can be easily inlined at the only place it is used.

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean (hunk 25 above)
Comment (xroblot) [reply Mathlib/Analysis/BoxIntegral/UnitPartition.lean:484]: Good point

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 27]
```diff
@@ -308,57 +308,57 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
   rw [← tag_index_eq_self_of_mem_smul_span n hx, ← tag_index_eq_self_of_mem_smul_span n hy, h]
 
 theorem integralSum_eq_tsum_div {B : Box ι} (hB : hasIntegralVertices B) (hs₀ : s ≤ B) :
-    BoxIntegral.integralSum (Set.indicator s F)
-      (BoxIntegral.BoxAdditiveMap.toSMul (Measure.toBoxAdditive volume))
-          (prepartition n B) = (∑' x : ↑(s ∩ (n : ℝ)⁻¹ • L), F x) / n ^ card ι := by
+    integralSum (Set.indicator s F) (BoxAdditiveMap.toSMul (Measure.toBoxAdditive volume))
+      (prepartition n B) = (∑' x : ↑(s ∩ (n : ℝ)⁻¹ • L), F x) / n ^ card ι := by
   classical
   unfold BoxIntegral.integralSum
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:349]:
```suggestion
  unfold integralSum
```

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 28]
```diff
@@ -293,4 +308,180 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+
+theorem tag_index_eq_self_of_mem_smul_span {x : ι → ℝ} (hx : x ∈ (n : ℝ)⁻¹ • L) :
+    tag n (index n x) = x := by
+  rw [mem_smul_span_iff] at hx
+  ext i
+  obtain ⟨a, ha⟩ : ∃ a : ℤ, a = n * x i := hx i
+  rwa [tag_apply, index_apply, Int.cast_sub, Int.cast_one, sub_add_cancel, ← ha, Int.ceil_intCast,
+    div_eq_iff (NeZero.ne _), mul_comm]
+
+theorem eq_of_index_eq_index_and_mem_smul_span {x y : ι → ℝ} (hx : x ∈ (n : ℝ)⁻¹ • L)
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:341]: I think `eq_of_mem_smul_span_of_index_eq_index` would be a better name (there is no "and" in the assumptions, and the order of assumptions is different than in the current name).

**Comment by xroblot** [comment]
@MichaelStollBayreuth, I think I have addressed all of your comments. Thanks a lot for your extensive review!

**Review by MichaelStollBayreuth — APPROVED** [review]
This looks good to me now.

maintainer merge

File: Mathlib/Analysis/BoxIntegral/UnitPartition.lean [hunk 29]
```diff
@@ -293,4 +308,180 @@ theorem prepartition_isPartition {B : Box ι} (hB : hasIntegralVertices B) :
...
+theorem _root_.tendsto_card_div_pow_atTop_volume (hs₁ : IsBounded s)
+    (hs₂ : MeasurableSet s) (hs₃ : volume (frontier s) = 0) :
+    Tendsto (fun n : ℕ ↦ (Nat.card ↑(s ∩ (n : ℝ)⁻¹ • L) : ℝ) / n ^ card ι)
+      atTop (nhds (volume s).toReal) := by
+  convert tendsto_tsum_div_pow_atTop_integral s (fun _ ↦ 1) continuous_const hs₁ hs₂ hs₃
+  · rw [tsum_const, nsmul_eq_mul, mul_one, Nat.cast_inj]
+  · rw [setIntegral_const, smul_eq_mul, mul_one]
+
+private def tendsto_card_div_pow₁ {c : ℝ} (hc : c ≠ 0) :
+  ↑(s ∩ c⁻¹ • L) ≃ ↑(c • s ∩ L) :=
```
Comment (jcommelin) [inline Mathlib/Analysis/BoxIntegral/UnitPartition.lean:426]:
```suggestion
    ↑(s ∩ c⁻¹ • L) ≃ ↑(c • s ∩ L) :=
```

**Review by jcommelin — COMMENTED** [review]
bors d+
